US04351977
Bicyclo[10.3.0]pentadeca-1,12-diene(intermediate compound not isolated)
29.0 ml of a 30% solution of sodium methoxide in methyl alcohol (0.15 mole) were added dropwise to a mixture of 36.4 g (0.10 mole) of 2-(3-phenylsulfonyl-prop-1-yl)-cyclododecanone and 200 ml of toluene, kept at reflux in a reaction vessel fitted with a water separator (addition period: ca. 1 hour). After this first addition, 14.6 g (0.13 mole) of potassium tert-butoxide were added to the reaction mixture, which was then heated to reflux during 4 hours. After the usual treatments of extraction and distillation, there were isolated 17.1 g (84% yield) of the desired compound.

reactant | sodium methoxide | C[O-].[Na+]
reactant | methyl alcohol | 0.15 mole | CO | CH4O
reactant | 2-(3-phenylsulfonyl-prop-1-yl)-cyclododecanone | 0.10 mole, 36.4 g | C1(=CC=CC=C1)S(=O)(=O)CCCC1C(CCCCCCCCCC1)=O | C21H32O3S
reactant | potassium tert-butoxide | 0.13 mole, 14.6 g | CC(C)([O-])C.[K+]
solvent | water | O | H2O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | Bicyclo[10.3.0]pentadeca-1,12-diene | 17.1 g, 84% yield | C12=CCCCCCCCCCC2=CCC1 | C15H24
